US08227613B2
B) [2-Methoxy-4-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
A suspension of 0.200 g (0.64 mmol) 2-methoxy-4-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid in 5 ml of CH2Cl2 was treated at RT with one drop of DMF; then, 0.06 ml=0.09 g (0.71 mmol) of oxalyl chloride was added to this solution drop by drop below 25° C. and the reaction mixture was stirred for 0.5 hour. After removal of the solvents by evaporation in a high vacuum, the residue was dissolved again in 10 ml of CH2Cl2 and 0.36 ml=0.26 g (2.57 mmol) of Et3N was added while stirring, followed by 0.099 g (0.64 mmol) of 4-pyrrolidin-1-yl-piperidine. The reaction mixture was stirred at RT. After 16 hours, it was poured into crashed ice and extracted twice with CH2Cl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 98:2 to 4:1) to give 0.278 g (97%) of the title compound as yellow amorphous solid. MS: 448.1 (MH+).

reactant | 2-methoxy-4-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid | 0.64 mmol, 0.200 g | COC1=C(C(=O)O)C(=CC(=N1)C1=CC(=CC=C1)C(F)(F)F)C | C15H12F3NO3
reactant | oxalyl chloride | 0.71 mmol, 0.09 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Et3N | 2.57 mmol, 0.26 g | CCN(CC)CC | C6H15N
reactant | 4-pyrrolidin-1-yl-piperidine | 0.64 mmol, 0.099 g | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | [2-Methoxy-4-methyl-6-(3-trifluoromethyl-phenyl)-pyridin-3-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 0.278 g, 97% | COC1=NC(=CC(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C1=CC(=CC=C1)C(F)(F)F | C24H28F3N3O2
